US07019123B2
Identification of functional placental bikunin was achieved by measuring its ability to inhibit bovine trypsin and human plasma kallikrein. Trypsin inhibitory activity was performed in assay buffer (50 mM Hepes, pH 7.5, 0.1 M NaCl, 2.0 mM CaCl2, 0.1% Triton x-100) at room temperature in a 96-well microtiter plate (Perkin Elmer) using Gly-Pro-Lys-Aminomethylcoumarin as a substrate. The amount of coumarin produced by trypsin was determined by measuring the fluorescence (ex =370 nm, em =432 nm) on a Perkin-Elmer LS-50B fuorimeter equipped with a plate reader. Trypsin (23 μg in 100 μl buffer) was mixed with 20 μl of the sample to be tested and incubated for 10 minutes at 25° C. The reaction was started by the addition of 50 μl of the substrate GPK-AMC (33 μM final concentration) in assay buffer. The fluorescence intensity was measured and the % inhibition for each fraction was determined by: % inhibition=100×[1−Fo/F1] where Fo is the fluorescence of the unknown and F1 is the fluorescence of the trypsin only control. Kallikrein inhibitory activity of the fractions was similarly measured using 7.0 nM kallikrein in assay buffer (50 mM Tris, pH 8.0, 50 mM NaCl, 0.1% triton x-100) and 66.0 μM Pro-Phe-Arg-AMC as a substrate. Determination of the In Vitro Specificity of Placental Bikunin

reactant | Hepes | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | 0.1 M, pH 7.5 | [Na+].[Cl-]
reactant | CaCl2 | 2.0 mM | [Cl-].[Cl-].[Ca+2]
reactant | x-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | Gly-Pro-Lys Aminomethylcoumarin | NCC(=O)N1[C@H](C(=O)N[C@@H](CCCCN)C(=O)O)CCC1.NCC=1C(OC2=CC=CC=C2C1)=O
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
